US08404691B2
Step 1: methyl N-benzyl-N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)carbonyl]-L-alaninate
N,N′-dicyclohexylcarbodiimide (6.0 g, 29.0 mmol) was added to a dichloromethane (150 ml) solution of methyl N-benzyl-L-alaninate (5.20 g, 26.9 mmol) and 1-{[(benzyloxy)carbonyl]amino}cyclopropanecarboxylic acid (6.30 g, 26.7 mmol) under ice cooling and the resulting mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure and then diluted with ethyl acetate, insoluble matter was removed by filtration and then the filtrate was washed with 1 N aqueous hydrochloric acid solution and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography [n-hexane:ethyl acetate=1:3 (v/v)] to give the title compound (7.80 g, 71%) as a colorless oil.

reactant | N,N′-dicyclohexylcarbodiimide | 29.0 mmol, 6.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methyl N-benzyl-L-alaninate | 26.9 mmol, 5.20 g | C(C1=CC=CC=C1)N[C@@H](C)C(=O)OC | C11H15NO2
reactant | 1-{[(benzyloxy)carbonyl]amino}cyclopropanecarboxylic acid | 26.7 mmol, 6.30 g | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C(=O)O | C12H13NO4
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | methyl N-benzyl-N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)carbonyl]-L-alaninate | 7.80 g, 71% | C(C1=CC=CC=C1)N([C@@H](C)C(=O)OC)C(=O)C1(CC1)NC(=O)OCC1=CC=CC=C1 | C23H26N2O5
